US04610827
Ten grams of DL-leucine, 12.2 g of N-carbobenzoxy-L-aspartic acid and 1.9 g of sulfuric acid were added to 500 ml of water and the resulting solution was heated to 60° C. This solution was cooled to 10° C. at a rate of 2° C. per hour while stirring, and was stirred for another two hours. The resulting crystal was separated, washed with 30 ml of water and dried to give 9.1 g of an L-leucine/N-carbobenzoxy-L-aspartic acid. Analysis showed that the optical purity of the L-leucine was 95%.

reactant | DL-leucine | Ten grams | NC(CC(C)C)C(=O)O | C6H13NO2
reactant | N-carbobenzoxy-L-aspartic acid | 12.2 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(=O)O)C(=O)O | C12H13NO6
reactant | sulfuric acid | 1.9 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 500 ml | O | H2O
product | L-leucine N-carbobenzoxy-L-aspartic acid | 9.1 g | N[C@@H](CC(C)C)C(=O)O.C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(=O)O)C(=O)O | InChI=1S/C12H13NO6.C6H13NO2/c14-10(15)6-9(11(16)17)13-12(18)19-7-8-4-2-1-3-5-8;1-4(2)3-5(7)6(8)9/h1-5,9H,6-7H2,(H,13,18)(H,14,15)(H,16,17);4-5H,3,7H2,1-2H3,(H,8,9)/t9-;5-/m00/s1
